*****************************************************************
* NXP BUK9Y15-60E
*
* Polarity N-Channel
* Ratings 60V/1.500000E-002OHMS/52.7496984573313A
*
* Date Created Tue Feb 05 07:29:40 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y15-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00974531425689449 TC=0.00489629046389559,1.3371633456391E-05
RBD 9 4 0.00179628625975882 TC=0.00489629046389559,1.3371633456391E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 1.83e-09
RG 1 2 2.05663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	2019.2
+ -10	2016.93
+ -8	2013.47
+ -6	2007.5
+ -5	2002.25
+ -4	1993.17
+ -3	1969.23
+ -2	1853.98
+ -1	1188.15
+ -0.5	838.535
+ -0.2	578.389
+ -0.1	571.516
+ 0	408.37864
+ 0.1	301.23008
+ 0.2	300.89648
+ 0.5	255.49248
+ 1	213.97888
+ 2	163.3086
+ 3	143.77456
+ 4	134.81988
+ 5	129.53204
+ 6	125.9572
+ 8	121.0808
+ 10	117.56252
+ 12	114.61388
+ 15	110.69876
+ 16	109.42652
+ 20	104.96976
+ 25	100.16003
+ 30	96.25236
+ 40	90.57166



.MODEL MINT NMOS(Vto=2.10890098805572 Kp=1.685878e+002 Nfs=440000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=3.88138335627772e-13
+ N=1 M=0.58 VJ=0.52 Fc=0.5 Cjo=7.6035992e-10 Tt=1.3792e-08)

.ENDS

